US04258047
A mixture of 3.56 g of 5-p-chlorophenyl-1-phenyl-4-(thiazolidin-2-yl-methyl)-pyrazole and 55 ml of acetic anhydride is boiled for 3 hours. 55 ml of pyridine is then added and the mixture is heated for a further 5 hours at 50° and subjected to the customary working up. 4-(3-Acetylthiazolidin-2-yl-methyl)-5-p-chlorophenyl-1-phenylpyrazole is obtained; m.p. 121°-122°.

reactant | 5-p-chlorophenyl-1-phenyl-4-(thiazolidin-2-yl-methyl)-pyrazole | 3.56 g | ClC1=CC=C(C=C1)C1=C(C=NN1C1=CC=CC=C1)CC1SCCN1 | C19H18ClN3S
reactant | acetic anhydride | 55 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 55 ml | N1=CC=CC=C1 | C5H5N
product | 4-(3-Acetylthiazolidin-2-yl-methyl)-5-p-chlorophenyl-1-phenylpyrazole | C(C)(=O)N1C(SCC1)CC=1C=NN(C1C1=CC=C(C=C1)Cl)C1=CC=CC=C1 | C21H20ClN3OS
